US09102662B2
Preparation of tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-nitrobenzoate
In a round bottomed three neck flask under argon atmosphere were added toluene (15 ml), CsCO3 (1.6 gr, 5 mmol), phosphine ligand 2-(di-tert-butylphosphino)-1,1′-binaphthyl (331 mg, 0.83 mmol) and Pd(dba)2 (380 mgr, 0.66 mmol). The mixture was degassed bubbling argon for five minutes. Then 4-bromo-2-nitrobenzoic acid tert butyl ester (1 gr, 3.31 mmol) and (S)-(−)-1-methyl-2-pyrrolidinemethanol (0.78 ml, 6.62 mmol) were added and the mixture was heated to 100° C. for 18 hr. The reaction was cooled to room temperature, quenched with 30 ml of water and extracted twice with 25 ml of AcOEt. The organic phases were collected, dried over Na2SO4 and the solvents evaporated to obtain a red oil which was subjected to chromatography purification on a Biotage SP1 automated system (90:10 DCM/MeOH (isocratic) to yield the pure title compound as a yellowish oil (460 mgr, 1.36 mmol, 41% yield).

reactant | phosphine | 0.83 mmol, 331 mg | P | H3P
reactant | 4-bromo-2-nitrobenzoic acid tert butyl ester | 3.31 mmol, 1 gr | C(C)(C)(C)OC(C1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C11H12BrNO4
reactant | (S)-(−)-1-methyl-2-pyrrolidinemethanol | 6.62 mmol, 0.78 ml | CN1[C@@H](CCC1)CO | C6H13NO
catalyst | Pd(dba)2 | 0.66 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-nitrobenzoate | 1.36 mmol, 41% yield | CN1[C@@H](CCC1)COC1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C17H24N2O5
